US06858627B2
Synthesis of 4-Allylsulfanylmethyl-6-(2-nitrophenyl)-2,2-dimethyl-1,2-dihydroquinoline
6-Bromo-2,2,4-trimethyl-1,2-dihydroquinoline was coupled with 2-nitrophenylboronic acid using the procedure described in Example 7 for trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester. The resulting intermediate was brominated with NBS, followed by the coupling reaction with allyl mercaptan as described in Example 7, to provide 15 mg of the title compound as an oil.

reactant | 6-Bromo-2,2,4-trimethyl-1,2-dihydroquinoline | BrC=1C=C2C(=CC(NC2=CC1)(C)C)C | C12H14BrN
reactant | 2-nitrophenylboronic acid | [N+](=O)([O-])C1=C(C=CC=C1)B(O)O | C6H6BNO4
reactant | trifluoromethanesulfonic acid 2,2,4-trimethyl-1,2-dihydroquinolin-6-yl ester | CC1(NC2=CC=C(C=C2C(=C1)C)OS(=O)(=O)C(F)(F)F)C | C13H14F3NO3S
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | allyl mercaptan | C(C=C)S | C3H6S
product | 4-Allylsulfanylmethyl-6-(2-nitrophenyl)-2,2-dimethyl-1,2-dihydroquinoline | 15 mg | C(C=C)SCC1=CC(NC2=CC=C(C=C12)C1=C(C=CC=C1)[N+](=O)[O-])(C)C | C21H22N2O2S
